US08895745B2
Step d) 1-(3-Iodo-imidazo[1,2-a]pyridin-7-yl)-2-nitro-ethanol
To a solution of 3-Iodo-imidazo[1,2-a]pyridine-7-carbaldehyde (150 mg, 0.54 mmol) in THF (10 ml) was added nitromethane (88 μl, 1.63 mmol), diethylamine (6 μl, 0.05 mmol) and sieves (300 mg). The reaction mixture was heated at 55° C. for 2 hours before being cooled. The sieves were filtered off and the resulting solution partitioned between EtOAc and H2O. The organic layer was separated, dried (MgSO4), filtered and the solvent removed in vacuo to afford a crude product that was used as is (116 mg). MS: [M+H]+=334.

reactant | 3-Iodo-imidazo[1,2-a]pyridine-7-carbaldehyde | 0.54 mmol, 150 mg | IC1=CN=C2N1C=CC(=C2)C=O | C8H5IN2O
reactant | nitromethane | 1.63 mmol, 88 μl | [N+](=O)([O-])C | CH3NO2
reactant | diethylamine | 0.05 mmol, 6 μl | C(C)NCC | C4H11N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(3-Iodo-imidazo[1,2-a]pyridin-7-yl)-2-nitro-ethanol | IC1=CN=C2N1C=CC(=C2)C(C[N+](=O)[O-])O | C9H8IN3O3
